US06828460B2
cis-4-(2,4-Bis{[tert-Butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl Methanesulfonate
To a round bottom flask containing cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexanol (200 mg, 0.46 mmol) was added dichloromethane (10 ml) followed by triethylamine (96 μl, 0.69 mmol) and dimethylaminopyridine (catalytic amount). The flask was purged with argon and methane sulfonyl chloride (53 μl, 0.69 mmol) was added with stirring. Stirring was continued for a further 24 hr and the reaction mixture was poured into water and extracted with dichloromethane (4×20 ml). The combined organic extracts were washed with brine, dried over magnesium sulfate and concentrated in vacuo. Purification via flash column chromatography (SiO2, ethyl acetate/petrol, 1:9) afforded the title compound as an oil (194 mg, 82%). δH(CDCl3) 0.19 (6H, s), 0.22 (6H, s), 0.97 (9H, s), 1.01 (9H, s), 1.20-1.35 (2H, m), 1.65-1.78 (4H, m), 2.15-2.22 (2H, m), 2.85-2.95 (1H, m), 3.02 (3H, s), 5.06 (1H, s), 6.30 (1H, d), 6.43 (1H, dd), 7.00 (1H, d).

reactant | cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexanol | 0.46 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)O | C24H44O3Si2
reactant | triethylamine | 0.69 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methane sulfonyl chloride | 0.69 mmol, 53 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | cis-4-(2,4-Bis{[tert-Butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl Methanesulfonate | 194 mg, 82% | CS(=O)(=O)O[C@@H]1CC[C@@H](CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C25H46O5SSi2
